US08278482B2
1-(Azepan-1-yl)-3-azido-3-methylbutan-1-one
To a stirred ice cold solution of 3-azido-3-methylbutanoyl chloride (8.00 g, 49.5 mmol) in anhydrous DCE (160 mL) was added azepane (12.6 mL, 3 equiv, 0.11 mol) in one portion. The reaction was stirred and left at 0° C. for 15 min and room temperature for 45 min. Aqueous 1 M HCl (100 mL) was added to the reaction mixture and the contents poured into a separatory funnel. The organic layer was separated and washed with 1 M HCl (100 mL) and saturated NaHCO3 (150 mL). It was dried over anhydrous MgSO4, filtered, concentrated and dried under high vacuum to give a crude oil (8.24 g, quant). This material was used without further purification. LRMS (ESI+) for C11H20N4O (224.1); Found: 225 (MH+).

reactant | 3-azido-3-methylbutanoyl chloride | 49.5 mmol, 8.00 g | N(=[N+]=[N-])C(CC(=O)Cl)(C)C | C5H8ClN3O
reactant | azepane | 0.11 mol, 12.6 mL, 3 equiv | N1CCCCCC1 | C6H13N
reactant | HCl | 1 M, 100 mL | Cl | ClH
solvent | DCE | 160 mL | ClCCCl | C2H4Cl2
product | 1-(Azepan-1-yl)-3-azido-3-methylbutan-1-one | N1(CCCCCC1)C(CC(C)(C)N=[N+]=[N-])=O | C11H20N4O
